US08420817B2
B.2 3-Amino-7,8-dihydro-6H-pyrrolo[2′,1′:2,3]imidazo[4,5-b]pyridin-6-yl acetate
A suspension of 0.25 g (0.95 mmol) of 3-nitro-7,8-dihydro-6H-pyrrolo[2′,1′:2,3]imidazo[4,5-b]pyridin-6-yl acetate, obtained in the preceding step, and 0.21 g of 10% palladium on carbon in 60 ml of ethanol is stirred at 20° C. for 3 hours under five atmospheres of hydrogen. After this time the mixture is filtered on a bed of celite and then concentrated under reduced pressure. This gives 0.22 g of the expected product, which will be used as it is in the remainder of the synthesis.

reactant | 3-nitro-7,8-dihydro-6H-pyrrolo[2′,1′:2,3]imidazo[4,5-b]pyridin-6-yl acetate | 0.95 mmol, 0.25 g | C(C)(=O)OC1CCN2C1=NC=1C2=NC=C(C1)[N+](=O)[O-] | C11H10N4O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.21 g | [Pd] | Pd
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 3-Amino-7,8-dihydro-6H-pyrrolo[2′,1′:2,3]imidazo[4,5-b]pyridin-6-yl acetate | C(C)(=O)OC1CCN2C1=NC=1C2=NC=C(C1)N | C11H12N4O2
